* Sramgen control circuit

.subckt control_logic_inv0 din din_b vdd vss
Xp din_b din vdd vdd sky130_fd_pr__pfet_01v8 w='1' l='0.15'
Xn din_b din vss vss sky130_fd_pr__nfet_01v8 w='0.6' l='0.15'
.ends

.subckt control_logic_delay_chain din dout vdd vss
Xinv0 din tmp0 vdd vss control_logic_inv0
Xinv1 tmp0 tmp1 vdd vss control_logic_inv0
Xinv2 tmp1 tmp2 vdd vss control_logic_inv0
Xinv3 tmp2 dout vdd vss control_logic_inv0
.ends

.subckt control_logic_nand0 a b y vdd vss
Xp1 y a vdd vdd sky130_fd_pr__pfet_01v8 w='2' l='0.15'
Xp2 y b vdd vdd sky130_fd_pr__pfet_01v8 w='2' l='0.15'
Xn1 y a int vss sky130_fd_pr__nfet_01v8 w='1' l='0.15'
Xn2 int b vss vss sky130_fd_pr__nfet_01v8 w='1' l='0.15'
.ends

.subckt control_logic_and0 a b y vdd vss
Xnand a b y_bar vdd vss control_logic_nand0
Xinv y_bar y vdd vss control_logic_inv0
.ends

.subckt sramgen_control clk cs we pc pc_b wl_en write_driver_en sense_en vdd vss
Xand0 clk cs pc vdd vss control_logic_and0
Xinv_pc pc pc_b vdd vss control_logic_inv0
Xinv_clk clk clk_b vdd vss control_logic_inv0
Xand1 clk_b cs clk_b_gated vdd vss control_logic_and0
Xdelay_wl_en clk_b_gated wl_en vdd vss control_logic_delay_chain
Xand2 clk_b_gated we write_driver_en vdd vss control_logic_and0
CL sense_en vss 10f
Xdelay_sense_en_0 wl_en tmp0 vdd vss control_logic_delay_chain
Xdelay_sense_en_1 tmp0 sense_en vdd vss control_logic_delay_chain
.ends

